US08754226B2
A solution of (S)-benzyl 4-(3-amino-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (2.0 g, 6.3 mmol), 1,2-difluoro-4-(methylsulfonyl)benzene (1.2 g, 6.3 mmol), and Na2CO3 (3.3 g, 32 mmol) in DMSO (20 mL) was stirred at 120° C. for 48 hours. The reaction mixture was poured into water (200 mL) and extracted with EtOAc (3×100 mL). The combined organic layers were washed with brine and dried over MgSO4, filtered then concentrated in vacuo. The material was purified over silica gel (100% EtOAc) to yield (S)-benzyl 4-(3-(2-fluoro-4-(methylsulfonyl)phenylamino)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate (1.3 g, 2.7 mmol, 42%).

reactant | (S)-benzyl 4-(3-amino-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 6.3 mmol, 2.0 g | N[C@@H]1C(N(CC1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O | C17H23N3O3
reactant | 1,2-difluoro-4-(methylsulfonyl)benzene | 6.3 mmol, 1.2 g | FC1=C(C=C(C=C1)S(=O)(=O)C)F | C7H6F2O2S
reactant | Na2CO3 | 32 mmol, 3.3 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 200 mL | O | H2O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | (S)-benzyl 4-(3-(2-fluoro-4-(methylsulfonyl)phenylamino)-2-oxopyrrolidin-1-yl)piperidine-1-carboxylate | 2.7 mmol, 1.3 g, 42% | FC1=C(C=CC(=C1)S(=O)(=O)C)N[C@@H]1C(N(CC1)C1CCN(CC1)C(=O)OCC1=CC=CC=C1)=O | C24H28FN3O5S
